US07098212B2
{2-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester
To a solution of tert-butoxycarbonylamino-acetic acid (0.71 g, 4.05 mmol) in dichloromethane (40 mL) was added 4-dimethylaminopyridine (0.74 g, 6.07 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.16 g, 6.07 mmol) and 1-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazine (0.90 g, 4.05 mmol). The reaction was stirred overnight at ambient temperature. The reaction was diluted with dichloromethane and washed with brine. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (1.45 g).

reactant | tert-butoxycarbonylamino-acetic acid | 4.05 mmol, 0.71 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.07 mmol, 1.16 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazine | 4.05 mmol, 0.90 g | FC1=CC=C(CN2[C@@H](CN[C@H](C2)C)C)C=C1 | C13H19FN2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6.07 mmol, 0.74 g | CN(C1=CC=NC=C1)C | C7H10N2
product | {2-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 1.45 g | C(C)(C)(C)OC(NCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C20H30FN3O3
